US05244863
A mixture of 3-trifluoromethylaniline (30 g) ad propargyl bromide (12 g) was stirred at 80° C. for 3 hours, followed by filtration of the reaction mixture. The filtrate was subjected to column chromatography to give N-propargyl-3-trifluoromethylaniline (7 g). A solution of N-propargyl-3-trifluoromethylaniline thus obtained (5.1 g) and ethoxycarbonyl isothiocyalate (3.7 g) in tetrahydrofuran (100 ml) was stirred at room temperature for 8 hours, and the solvent was removed under reduced pressure. The concentrated residue was extracted with chloroform (200 ml), washed with water and dried over anhydrous magnesium sulfate. After removal of the solvent, the residue was subjected to column chromatography to give 5.7 g of 2 -ethoxycarbonylimino-3-(3-trifluoromethylphenyl)-5-methylenethiazolidine (Compound (i)).

reactant | 3-trifluoromethylaniline | 30 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | propargyl bromide | 12 g | C(C#C)Br | C3H3Br
product | N-propargyl-3-trifluoromethylaniline | 7 g | C(C#C)NC1=CC(=CC=C1)C(F)(F)F | C10H8F3N
